US08748659B2
Ratio by Mole of Dimethylamine/Crotonic Acid=4
Dimethylamine (30 g) was added to a pressure-resistant container (reactor), and the reactor was hermetically sealed. The temperature of the reactor was adjusted to 20° C., and crotonic acid (14.3 g) was fed into the reactor by means of a high-pressure pump. During addition of crotonic acid, heat of neutralization is generated. Therefore, while the reactor was cooled in an ice bath, crotonic acid was added dropwise to the reactor at a rate of 5 to 7 mL/minute, so as to adjust the temperature in the reactor to 25 to 35° C. After completion of dropwise addition, reaction was allowed to proceed for one hour, and then analysis was carried out. The reaction time (as measured from initiation of dropwise addition) was one hour and three minutes.

reactant | Dimethylamine | 30 g | CNC | C2H7N
reactant | crotonic acid | 14.3 g | C(\C=C\C)(=O)O | C4H6O2
product | Dimethylamine Crotonic Acid | CNC.C(\C=C\C)(=O)O | InChI=1S/C4H6O2.C2H7N/c1-2-3-4(5)6;1-3-2/h2-3H,1H3,(H,5,6);3H,1-2H3/b3-2+;
